US07101880B2
Synthesis of 2(S)-amino-N-[1 (S)-(benzoxazol-2-ylhydroxymethyl)propyl]-3-(1-methylcyclopentyl)propionamide
Pd/C (5%) (60 mg) was added to a solution of of [1-[1-(benzoxazol-2-ylhydroxymethyl)propylcarbamoyl]-2-(1-methylcyclopentyl)ethyl]-carbamic acid benzyl ester

reactant | [1-[1-(benzoxazol-2-ylhydroxymethyl)propylcarbamoyl]-2-(1-methylcyclopentyl)ethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(CC1(CCCC1)C)C(NC(CC)C(O)C=1OC2=C(N1)C=CC=C2)=O)=O | C28H35N3O5
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | 2(S)-amino-N-[1 (S)-(benzoxazol-2-ylhydroxymethyl)propyl]-3-(1-methylcyclopentyl)propionamide | N[C@H](C(=O)N[C@@H](CC)C(O)C=1OC2=C(N1)C=CC=C2)CC2(CCCC2)C | C20H29N3O3
